US04592866
2-(Dimethylamino)methyl-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one
When in the procedure of Example 10, 2-chloromethyl-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one is substituted for 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one, the title compound is prepared and is isolated if desired as a pharmaceutically acceptable salt.

reactant | 2-chloromethyl-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one | ClCC1OC2=C(C(N(C1)C)=O)C=CC=N2 | C10H11ClN2O2
reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one | ClCCC1OC2=C(C(N(C1)C)=O)C=CC=N2 | C11H13ClN2O2
product | 2-(Dimethylamino)methyl-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one | CN(C)CC1OC2=C(C(N(C1)C)=O)C=CC=N2 | C12H17N3O2
